US07619047B2
To 4-bromo-1-butene (100 g of 97 wt %, 0.719 mol) was added cyclopentadienyl magnesium chloride (800 mL of 1 M solution in THF, 0.8 mol) at 0° C. in 50 minutes. After stirring for an additional 15 minutes at 0° C., the mixture was warmed to room temperature. After stirring overnight, the reaction was quenched with a mixture of ice and water. The mixture was extracted with pentane. The organic layer was washed with water and dried over anhydrous sodium sulfate. Removal of the solvent under vacuum at room temperature gave a brown liquid (94.2 g, crude but-3-enylcyclopentadiene). To the crude but-3-enylcyclopentadiene (94.2 g) dissolved in THF (500 mL) was added n-BuLi (70 mL of 10 M in hexanes, 0.7 mol at −78° C. The mixture was warmed up to room temperature and stirred overnight. The anion solution was added to benzophenone (133.8 g, 0.735 mol) dissolved in THF (400 mL) at 0° C. in 35 minutes. The mixture was warmed to room temperature and stirred overnight. The reaction was quenched with a mixture of ice and 10% HCl aqueous solution. The mixture was extracted with pentane. The organic layer was washed with water and dried over anhydrous sodium sulfate. Removal of the solvent under vacuum at 40° C. gave a dark red viscous oil. The oil was dissolved in heptane and filtered through silica gel. The product was collected by washing the silica gel with 5-10% CH2Cl2 in heptane. Removal of the solvent gave the desired product (152 g, 74.4% yield based on 4-bromo-1-butene) as a dark red viscous oil. 1H NMR (300 MHz, CDCl3) δ 7.29-7.41 (m, 10H), 6.50-6.53 (dd, J=5.2 Hz, 1.4 Hz, 1H), 6.29-6.31 (dd, J=5.2 Hz, 1.4 Hz, 1H), 6.02-6.05 (m, 1H), 5.82-5.98 (m, 1H), 4.94-5.16 (m, 2H), 2.53-2.60 (m, 2H), 2.33-2.43 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 148.59, 147.67, 143.18, 140.86, 140.78, 137.85, 133.48, 131.38, 131.36, 127.85, 127.82, 127.18, 127.13, 124.75, 118.35, 114.29, 33.36, 30.20.

reactant | 4-bromo-1-butene | 0.719 mol, 100 g | BrCCC=C | C4H7Br
reactant | cyclopentadienyl magnesium chloride | 0.8 mol, 1 M, 800 mL | C1(C=CC=C1)[Mg]Cl
product | but-3-enylcyclopentadiene | C(CC=C)C1=CC=CC1 | C9H12
